US06835745B2
3-(3-Methoxyphenyl)-5-(4-methoxyphenyl)-4-methylthiophene-2-carbaldehyde
2-[3-(3-Methoxyphenyl)-5-(4-methoxyphenyl)-4-methylthien-2-yl]-1,3-dioxolane (7.0 g, 18 mmol) and PPTS (1.4 g, 5.6 mmol) were combined in wet acetone (180 mL) and heated at reflux for 2 h. At this time, the cooled solution was concentrated in vacuo and the residue was taken up in ethyl acetate (200 mL). The organic phase was washed with saturated aqueous NaHCO3 and brine (200 mL each), dried (Na2SO4) and concentrated in vacuo to give the title compound (5.9 g, 95%, m.p. 105-08° C.) as a yellow solid.

reactant | 2-[3-(3-Methoxyphenyl)-5-(4-methoxyphenyl)-4-methylthien-2-yl]-1,3-dioxolane | 18 mmol, 7.0 g | COC=1C=C(C=CC1)C1=C(SC(=C1C)C1=CC=C(C=C1)OC)C1OCCO1 | C22H22O4S
reactant | PPTS | 5.6 mmol, 1.4 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | acetone | 180 mL | CC(=O)C | C3H6O
product | 3-(3-Methoxyphenyl)-5-(4-methoxyphenyl)-4-methylthiophene-2-carbaldehyde | 5.9 g, 95% | COC=1C=C(C=CC1)C1=C(SC(=C1C)C1=CC=C(C=C1)OC)C=O | C20H18O3S
